US06545017B1
Concentrated hydrochloric acid (5 mL) was slowly added to a solution of N-[3-(4-amino-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-1-yl)propyl]acetamide (15.94 g, 57.9 mmol) in absolute ethanol (100 mL). A precipitate formed immediately and the mixture thickened. Ethanol (50 mL) was added followed by the addition of concentrated hydrochloric acid (119.5 mL). The reaction mixture was heated at reflux for 2 days. The solvents were removed under reduced pressure. Water (250 mL) was added to the residue, solid potassium carbonate was added until the pH reached 7 at which time chloroform (250 mL) was added. Sodium carbonate addition was resumed until the pH reached 10, then 50% sodium hydroxide was added until the pH reached 14. The mixture was diluted with additional chloroform (500 mL) and then stirred at ambient temperature for 2 days. The organic layer was separated, dried with magnesium sulfate and then concentrated under reduced pressure. The residue was recrystallized from acetonitrile to provide 8.42 g of 1-(3-aminopropyl)-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-4-amine as an off-white crystalline solid, m.p. 191.5-191.9° C. Analysis: Calculated for C12H19N5.0.25 H2O: %C, 60.61; %H, 8.26; %N, 29.45; Found: %C, 60.50; %H, 8.28; %N, 29.57.

reactant | hydrochloric acid | 5 mL | Cl | ClH
reactant | N-[3-(4-amino-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-1-yl)propyl]acetamide | 57.9 mmol, 15.94 g | NC1=NC(=C(C2=C1N=C(N2CCCNC(C)=O)C)C)C | C14H21N5O
reactant | hydrochloric acid | 119.5 mL | Cl | ClH
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | Ethanol | 50 mL | C(C)O | C2H6O
product | 1-(3-aminopropyl)-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-4-amine | 8.42 g | NCCCN1C(=NC=2C(=NC(=C(C21)C)C)N)C | C12H19N5
